US07015348B2
To a solution of 10.00 g (70.35 mmol) of methyl cyclopentanone-2-carboxylate in 100 ml of methanol, 22.18 g (351.74 mmol) of ammonium formate was added, and the resulting mixture was heated under reflux for 24 hours. After completion of the reaction, the reaction mixture was cooled to room temperature, and the solvent was distilled off under reduced pressure. To the residue, 50 ml of ethyl acetate and 30 ml of water were added, and the mixture was stirred at room temperature for 30 minutes. Then, the organic layer was separated, and the aqueous layer was extracted with 50 ml of ethyl acetate. The organic layers were combined, washed twice with each 30 ml of water and once with 30 ml of a brine successively and dried over sodium sulfate. The solvent was removed under reduced pressure, and the residue was recrystallized from methanol to give the objective methyl 2-amino-1-cyclopentenecarboxylate (7.34 g, white crystals). The yield was 73.9%.

reactant | methyl cyclopentanone-2-carboxylate | 70.35 mmol, 10.00 g | COC(=O)C1CCCC1=O | C7H10O3
reactant | ammonium formate | 351.74 mmol, 22.18 g | C(=O)[O-].[NH4+]
solvent | methanol | 100 ml | CO | CH4O
product | methyl 2-amino-1-cyclopentenecarboxylate | 7.34 g, yield was 73.9% | NC1=C(CCC1)C(=O)OC | C7H11NO2
